US04209515
270 ml of a 6 N solution of hydrogen chloride in methanol is added to a solution of 133.0 g (0.30 mole) of 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid (crystals containing an equimolar amount of methanol; see German `Offenlegungschrift` No. 2,159,527, page 32) in 1400 ml of methanol, and the whole is refluxed for 18 hours. The reaction mixture is then concentrated in vacuo; water is added to the residue and extraction is performed twice with methylene chloride. The organic phase is washed once with saturated potassium bicarbonate solution, twice with water and once with saturated sodium chloride solution; it is subsequently dried over sodium sulphate and concentrated in vacuo. The residue is recrystallised from 1 liter of methanol. After drying there is obtained 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester, m.p. 130°-132°.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.30 mole, 133.0 g | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)N2N=C(N=C2CCl)C(=O)O)C=CC=C1 | C17H10Cl3N3O3
reactant | methanol | CO | CH4O
reactant | methanol | 1400 ml | CO | CH4O
product | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C(=N1)CCl)C1=C(C=C(C=C1)Cl)C(C1=C(C=CC=C1)Cl)=O | C18H12Cl3N3O3
